US07812028B2
d) 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31c, using 5-bromo-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-nicotinamide and 5-chlorophenyl-boronic acid as starting materials, MS (ISP): 415.3 (M+H)+.

reactant | 5-bromo-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-nicotinamide | BrC=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C)OCC1CC1 | C17H23BrN2O3
reactant | 5-chlorophenyl-boronic acid | ClC=1C=CC=C(C1)B(O)O | C6H6BClO2
product | 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C)OCC1CC1 | C23H27ClN2O3
